US08877949B2
To a round bottomed flask, 0.26 mol of 2′,4′-dihydroxyacetophenone was added and mixed thoroughly with 232 mL of triethyl orthoformate. Then 26.4 mL of perchloric acid was dropped slowly into the resultant mixture. After 30 min reaction, 300 mL ether was added, and solids were precipitated. Following sucking filtration, the dried solids were transferred into a 1000 mL round bottomed flask, and refluxed for 2 hours after 250 mL hot water was added. Sucking filtration was conducted again, and then 22.69 g of 7-hydroxychromone was obtained by recrystallization with ethanol, with a yield of 53.2% and MS m/z (M)162.

reactant | 2′,4′-dihydroxyacetophenone | 0.26 mol | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
reactant | triethyl orthoformate | 232 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | perchloric acid | 26.4 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | ether | 300 mL | CCOCC | C4H10O
product | 7-hydroxychromone | 22.69 g, yield of 53.2% | OC1=CC=C2C(C=COC2=C1)=O | C9H6O3
